### PR TITLE
[Merged by Bors] - chore(Order/UpperLower/Closure): use `to_dual`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR tags `upperClosure` with `to_dual`.

- `to_dual` was not happy with the proof of `upperClosure_image`. I replaced it with a proof with less defeq abuse, by tagging `UpperSet.map` with `simps`.
- `to_dual` is not happy with the galois connections, because they are between the order and a set-containment order, and only one of the two is translated by `to_dual`. Hence, the proofs using the galois connection cannot be translated automatically, and we need to use `to_dual existing`. I changed two proofs to avoid this dependency.
- I changed the `to_dual_insert_cast` proof of `GaloisInsertion` to clarify what is going on there.
- `DecidablePred` was being translated to `DecidableSucc`, so I added a fix in the abbreviation dictionary.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by vihdzp — APPROVED** [review]
This LGTM.

File: Mathlib/Order/UpperLower/Closure.lean [hunk 1]
```diff
@@ -32,96 +32,57 @@ section Preorder
...
 /-- The greatest upper set containing a given set. -/
+@[to_dual /-- The least lower set containing a given set. -/]
 def upperClosure (s : Set α) : UpperSet α :=
   ⟨{ x | ∃ a ∈ s, a ≤ x }, fun _ _ hle h => h.imp fun _x hx => ⟨hx.1, hx.2.trans hle⟩⟩
 
-/-- The least lower set containing a given set. -/
-def lowerClosure (s : Set α) : LowerSet α :=
-  ⟨{ x | ∃ a ∈ s, x ≤ a }, fun _ _ hle h => h.imp fun _x hx => ⟨hx.1, hle.trans hx.2⟩⟩
-
--- TODO: move `GaloisInsertion`s up, use them to prove lemmas
```
Comment (Komyyy) [inline Mathlib/Order/UpperLower/Closure.lean:42]: Is this [`giLowerClosureCoe`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/UpperLower/Closure.html#giLowerClosureCoe)?

I think this TODO is still open.

File: Mathlib/Order/UpperLower/Closure.lean [hunk 2]
```diff
@@ -219,52 +157,35 @@ theorem ordConnected_iff_upperClosure_inter_lowerClosure :
   rw [← h]
   exact (UpperSet.upper _).ordConnected.inter (LowerSet.lower _).ordConnected
```
Comment (Komyyy) [inline Mathlib/Order/UpperLower/Closure.lean:158]: We can dualize this.

```lean4
theorem Set.OrdConnected.upperClosure_inter_lowerClosure (h : s.OrdConnected) :
    ↑(upperClosure s) ∩ ↑(lowerClosure s) = s :=
  (subset_inter subset_upperClosure subset_lowerClosure).antisymm'
    fun _a ⟨⟨_b, hb, hba⟩, ⟨_c, hc, hac⟩⟩ => h.out hb hc ⟨hba, hac⟩

@[to_dual existing]
theorem Set.OrdConnected.lowerClosure_inter_upperClosure (h : s.OrdConnected) :
    ↑(lowerClosure s) ∩ ↑(upperClosure s) = s := by
  rw [inter_comm, h.upperClosure_inter_lowerClosure]

@[to_dual]
theorem ordConnected_iff_upperClosure_inter_lowerClosure :
    s.OrdConnected ↔ ↑(upperClosure s) ∩ ↑(lowerClosure s) = s := by
  refine ⟨Set.OrdConnected.upperClosure_inter_lowerClosure, fun h => ?_⟩
  rw [← h]
  exact (UpperSet.upper _).ordConnected.inter (LowerSet.lower _).ordConnected
```

**Review by Komyyy — CHANGES_REQUESTED** [review]
Thank you for your contribution!

File: Mathlib/Order/UpperLower/Closure.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Order/UpperLower/Closure.lean:42]: I removed the TODO, because the Galois connections interact poorly with `to_dual`, so the TODO now seems a bad idea.

File: Mathlib/Order/UpperLower/Closure.lean (hunk 2 above)
Comment (JovanGerb) [reply Mathlib/Order/UpperLower/Closure.lean:158]: Do you think it is worth adding? I typically try to reduce the number of lines of code with `to_dual`, rather than increase.

Comment (Komyyy) [reply Mathlib/Order/UpperLower/Closure.lean:158]: Oh, I suggested this because these lemmas are used in other 4 files, but none of them needs `to_dual`.

So, these lemmas seem worthless.

File: Mathlib/Order/UpperLower/Closure.lean (hunk 1 above)
Comment (Komyyy) [reply Mathlib/Order/UpperLower/Closure.lean:42]: I see.
Could you add this to the PR description?

**Review by Komyyy — APPROVED** [review]
Thank you!

maintainer delegate
